US07906546B2
565 mg (7.65 mmol, 1.5 eq) of N-hydroxy-acetamidine in 50 ml of THF were treated at RT with 306 mg (7.65 mmol, 1.5 eq) of NaH portionwise within 30 min. 1.0 g (5.1 mmol) of phenylsulfanyl-acetic acid ethyl ester was added in a THF solution, and stirring was continued for 1 hour at 60° C. The reaction mixture was diluted with saturated aqueous NH4Cl, extracted with EtOAc, filtered and evaporated. Column chromatography on silica gel with EtOAc/heptane 1:1 yielded 480 mg (46%) of 3-methyl-5-phenylsulfanylmethyl-[1,2,4]oxadiazole as a colorless oil.

reactant | N-hydroxy-acetamidine | 7.65 mmol, 565 mg, 1.5 eq | ONC(C)=N | C2H6N2O
reactant | NaH | 7.65 mmol, 306 mg, 1.5 eq | [H-].[Na+]
reactant | phenylsulfanyl-acetic acid ethyl ester | 5.1 mmol, 1.0 g | C(C)OC(CSC1=CC=CC=C1)=O | C10H12O2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-methyl-5-phenylsulfanylmethyl-[1,2,4]oxadiazole | 480 mg, 46% | CC1=NOC(=N1)CSC1=CC=CC=C1 | C10H10N2OS
